Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lower extremity pain
 
Major Surgical or Invasive Procedure:
***DISCHARGE AGAINST MEDICAL ADVICE***

None

 
History of Present Illness:
___ yo M with DM2 complicated by neuropathy, HL, who presented to
the ED with worsening pain from neuropathy and admitted due to
leukocytosis. 

Pt on gabapentin 400 TID for neuropathy in his distal lower
extremities which he says gives him partial relief. He ran out a
week and a half ago and has had worsening pain since then. He
came to the ED for evaluation. In the ED, pt with normal vitals.
Extremities unremarkable. Labs were notable for leukocytosis to
24k with left shift. CXR, urinalysis unremarkable. He was given
empiric Vanc an Zosyn and admitted for further care. 

On arrival to the floor, pt is not a great historian, but
provides above history for his ED presentation. He otherwise
denies any localizing symptoms including rash in ___, cough,
dyspnea, urinary changes, change in bowel habits, or abdominal
pain. No headache or neck stiffness. No sick contacts.   

ROS: As above. Denies headache, lightheadedness, dizziness, sore
throat, sinus congestion, chest pain, heart palpitations,
shortness of breath, cough, nausea, vomiting, diarrhea,
constipation, urinary symptoms, muscle or joint pains, focal
numbness or tingling, skin rash. The remainder of the ROS was
negative.
 
Past Medical History:
Recent 60 pound weight loss of unclear etiology
DM2 complicated by neuropathy
Hyperlipidemia
Current smoking
 
Social History:
___
Family History:
Mother and father with diabetes, no family history of cancer or 
autoimmune disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================

VITALS: 98.8 ___ 18 99 RA 
GENERAL: Thin, cachectic man in NAD
ENT: Moist mucous membranes
LAD: Firm but not overtly enlarged cervical lymph nodes, no
axillary or inguinal LAD 
CV:  Regular, no murmurs
RESP:  Clear, unlabored
GI: Soft, scaphoid, nontender, bowel sounds present
MSK:  No spinous process tenderness
SKIN:  No rash, no foot ulcers
NEURO:  Notable for globalized weakness, particularly in the 
LEs,
which he reports is due to pain
PSYCH: Somewhat anxious

DISCHARGE PHYSICAL EXAM:
========================

Unable to obtain; patient left against medical advice prior to 
discharge exam being completed.  
 
Pertinent Results:
PERTINENT LABS:
===============

___ 02:30PM BLOOD WBC-24.2* RBC-5.12 Hgb-13.8 Hct-42.9 
MCV-84 MCH-27.0 MCHC-32.2 RDW-15.3 RDWSD-46.1 Plt ___
___ 02:30PM BLOOD Neuts-80.5* Lymphs-10.8* Monos-3.9* 
Eos-3.1 Baso-0.4 Im ___ AbsNeut-19.44* AbsLymp-2.60 
AbsMono-0.94* AbsEos-0.76* AbsBaso-0.09*
___ 12:00AM BLOOD WBC-19.3* RBC-4.44* Hgb-11.8* Hct-36.3* 
MCV-82 MCH-26.6 MCHC-32.5 RDW-14.9 RDWSD-44.5 Plt ___
___ 12:00AM BLOOD Neuts-67.3 ___ Monos-5.2 Eos-6.9 
Baso-0.4 Im ___ AbsNeut-13.02* AbsLymp-3.75* AbsMono-1.01* 
AbsEos-1.33* AbsBaso-0.08
___ 04:39PM BLOOD Glucose-204* UreaN-11 Creat-0.5 Na-139 
K-4.1 Cl-102 HCO3-22 AnGap-15
___ 04:39PM BLOOD ALT-20 AST-10 AlkPhos-65 TotBili-0.4
___ 04:39PM BLOOD Lipase-29
___ 02:30PM BLOOD Calcium-9.3 Phos-4.3 Mg-1.9
___ 04:39PM BLOOD TSH-2.2
___ 04:39PM BLOOD CRP-0.6
___ 05:35PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:35PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-300* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:35PM URINE RBC-4* WBC-2 Bacteri-NONE Yeast-NONE 
Epi-0

PERTINENT MICRO:
================

___ CULTURE-FINAL NO GROWTH
___ CULTURE-PENDING
___ CULTURE-PENDING

PERTINENT IMAGING:
==================

CXR ___:
IMPRESSION: 
 
No comparison.  The lung volumes are normal.  Normal size of the 
cardiac
silhouette.  Normal hilar and mediastinal contours.  No evidence 
of pneumonia, pulmonary edema or pleural effusions.
 
CT chest/abd/pelvis ___:
1. The brachiocephalic trunk is occluded, however the right 
subclavian and common carotid arteries are patent.  The right 
common iliac artery is occluded with reconstitution of the right 
external iliac artery distally.  The right internal iliac artery 
is not visualized, likely occluded.  Findings are of uncertain 
chronicity as no priors are available.
2. Fairly long segment of jejunal wall thickening and hyper 
enhancement with no evidence of luminal narrowing or 
obstruction.  Differential considerations are broad and include 
vascular etiologies, edema, malignancy, infection and 
nonspecific inflammatory/depositional disorders.  Further 
evaluation with a small bowel follow-through could be 
considered.
3. Marked gastric distention.  Recommend decompression.
4. No thoracic or abdominopelvic abscess.
 
Brief Hospital Course:
___ M with DM2 c/b neuropathy admitted with lower extremity pain; 
also found to have a leukocytosis of 20 with a normal 
differential and also endorsed a 60 lb weight loss in the past 3 
months, as well as foot pain that is different in character from 
his neuropathy. He has been so debilitated that he has not been 
able to work for the past 6 months, and he has started using 
crutches for ambulation. Metabolic workup was unrevealing, and 
CT chest-abdomen-pelvis was performed, which showed several 
vascular occlusions consistent with peripheral arterial disease, 
jejunal thickening (vascular vs. infectious etiology), and 
marked gastric distension. These findings make claudication a 
likely etiology of his foot pain, and given his weight loss, 
occult malignancy is a concerning possibility. On hospital day 
2, the patient chose to leave against medical advice. The above 
information was discussed with the patient and he was determined 
to have capacity to leave AMA. He was encouraged to follow-up 
with his PCP as soon as possible for further workup.

TRANSITIONAL ISSUES:
====================
- The patient's bilateral burning/aching foot pain is most 
likely due to claudication, given evidence of multiple occluded 
vessels on his CT abdomen/pelvis. 
- The patient's jejunal thickening could explain his 
leukocytosis, and this is most likely vascular/ischemic vs. 
infectious in etiology, though malignancy has not been ruled out 
on this hospitalization due to the patient's preference to leave 
AMA.
- The patient needs a gastroenterology evaluation for his marked 
gastric distension and evidence of small bowel inflammation, 
which he notes has been seen on CT scan previously. 
- His CBC should be rechecked as an outpatient
- Continue to encourage smoking cessation.
- Given evidence of proteinuria, he should be started on an ACE 
inhibitor for renoprotection given his diabetes
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Basaglar KwikPen (insulin glargine) 10 units subcutaneous QHS 

3. Gabapentin 400 mg PO TID 
4. glimepiride 1 mg oral DAILY 
5. Lovastatin 20 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Basaglar KwikPen (insulin glargine) 10 units subcutaneous 
QHS  
3.  Gabapentin 400 mg PO TID  
4.  glimepiride 1 mg oral DAILY  
5.  Lovastatin 20 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
***DISCHARGE AGAINST MEDICAL ADVICE***

PRIMARY: Lower extremity pain, leukocytosis, abnormal weight 
loss

 
Discharge Condition:
***DISCHARGE AGAINST MEDICAL ADVICE***

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
***DISCHARGE AGAINST MEDICAL ADVICE***

Dear Mr. ___,

It was our pleasure caring for you at ___ 
___.  You were admitted with pain in your legs, which 
we treated with medication for symptom relief.  However, you 
also had an elevated white blood cell count and a 60 pound 
weight loss over the past several months, which is highly 
worrisome for an underlying problem such as cancer.  We obtained 
a scan of your abdomen which showed that your stomach is much 
larger than normal.  We recommended having a gastroenterologist 
evaluate you while you were in the hospital, but you chose to 
leave against medical advice.  We encourage you to follow-up 
with your primary care physician as soon as possible for further 
evaluation.

Thank you for allowing us to participate in your care.  
 
Followup Instructions:
___